US07687502B2
[6-(2-Fluoro-phenoxy)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine
The compound of Example 8 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, thiazolo[5,4-b]pyridin-2-yl-amine and 2-fluorophenol.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 2-fluorophenol | FC1=C(C=CC=C1)O | C6H5FO
product | [6-(2-Fluoro-phenoxy)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine | FC1=C(OC=2C=C3C(=NC=NC3=CC2)NC=2SC3=NC=CC=C3N2)C=CC=C1 | C20H12FN5OS
